US06884868B1
To a solution of 1-(4-aminophenyl)-4-phenylpiperidine (2 g) in 47% hydrobromic acid (20 ml) and acetic acid (23 ml) was added dropwise sodium nitrite (0.55 g) in water (1 ml) under ice-cooling. The solution was then stirred for 30 minutes at 0° C. The reaction mixture was added dropwise copper(I) bromide (2.27 g) in 47% hydrobromic acid (2.3 ml) under ice-cooling. The reaction mixture was then stirred for 1.5 hours at ambient temperature. The reaction mixture was pulverized with water. The precipitate was collected by filtration. The powder was added 1N-sodium hydroxide (21 ml) and extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure. The residue was purified by column chromatography over silica using dichloromethane/n-hexane (1:1) as the elution to give 1-(4-bromophenyl)-4-phenylpiperidine (1.23 g).

reactant | 1-(4-aminophenyl)-4-phenylpiperidine | 2 g | NC1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1 | C17H20N2
reactant | sodium nitrite | 0.55 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 20 ml | Br | BrH
reactant | hydrobromic acid | 2.3 ml | Br | BrH
solvent | acetic acid | 23 ml | C(C)(=O)O | C2H4O2
solvent | water | 1 ml | O | H2O
catalyst | copper(I) bromide | 2.27 g | [Cu]Br
product | 1-(4-bromophenyl)-4-phenylpiperidine | 1.23 g | BrC1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1 | C17H18BrN
